.options savecurrents

*PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100

*input coupling capacitor
Ci in2 base 1.9u

*bias circuit
R1 vcc base 78k
R2 base 0 20k

*gain stage
Q1 coll base emit BC547A
Rc vcc coll 1k
Re emit 0 100

*bypass capacitor
Cb emit 0 1m

*output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 100

*output coupling capacitor
Co emit2 out 1u

*load
RL out 0 8

.op
.end

.control

print all

op

echo "******"
echo "NPN_TAB"
let V_CE=v(coll)-v(emit)
echo "V(CE) = $&V_CE"
let V_BE=v(base)-v(emit)
echo "V(BE) = $&V_BE"
if (V_CE>V_BE)
echo "V(CE)>V(BE) = Yes"
else
echo "V(CE)>V(BE) = No"
endif

echo "NPN_END"
echo "******"
echo "PNP_TAB"
let V_EC=v(emit2)
echo "V(EC) = $&V_EC"
let V_EB=v(emit2)-v(coll)
echo "V(EB) = $&V_EB"
if (V_EC>V_EB)
echo "V(EC)>V(EB) = Yes"
else
echo "V(EC)>V(EB) = No"
endif
echo "PNP_END"

*frequency analysis
ac dec 10 10 100MEG
plot vdb(coll)
plot vp(coll)
plot vdb(in)
hardcopy vo1f.ps vdb(coll)

plot vdb(out)
plot vp(out)
hardcopy vo2f.ps vdb(coll)

meas AC max MAX vdb(out) from=10 to=100MEG
let range = max - 3

meas AC lower WHEN vdb(out) = range
meas AC upper WHEN vdb(out) = range CROSS=LAST

let bandwidth = upper-lower
let gain = max
let cut_off_frequency= lower
let quality = bandwidth*gain/cut_off_frequency


*input impedance in ohm
echo "Zin_TAB"
let Zr_in= Re(v(in2)[40]/i(Vin)[40])
let Zim_in= Im(v(in2)[40]/i(Vin)[40])
echo "Zin = $&Zr_in + $&Zim_in j"
echo "Zin_END"


echo "results_TAB"
echo "V_Gain=$&gain"
echo "Bandwidth=$&bandwidth"
echo "CO_Freq= $&cut_off_frequency"
echo "results_END"

*total_r = (Rin+R1+R2+Rc+Re+Rout+RL)/1000
*total_c = (Ci+Cb+Cout)*1000000
*total_t = 2*0.1

let cost = 123.208
let merit = quality/cost

echo "******"
echo "cost_TAB"
echo "Cost = $&cost"
echo "merit = $&merit"
echo "cost_END"
echo "******"

.endc 

